* Testing AM noise using a vccs with 2nd order nonlinearity
* Measring AM noise at fundamental frequency
*
* -------------------------------------------------------------------------------
* f(x) = x^2
* i = f( v + vn )
* v = v0 + v1*cos(w*t)
* vn = vn0 + vn1I*cos(w*t) - vn1Q*sin(w*t) + vn2I*cos(2*w*t) - vn2Q*sin(2*w*t)
* -------------------------------------------------------------------------------
* HB analytical results
* i = v0^2 + 0.5*v1^2 + 2*v0*v1*cos(w*t) + 0.5*v1^2*cos(2*w*t)
* -------------------------------------------------------------------------------
* noise contributions analytical results:
* i_n = 2 * vn * [ v0 + v1 * cos(w*t) ]
* -------------------------------------------------------------------------------
* TO BASEBAND OUTPUT:
* i_n[0] = 2*vn0*v0 + vn1I*v1
* AM NOISE: i_n[0]/i[0]
* -------------------------------------------------------------------------------
* TO 1ST HARMONIC:
* i_n[1,AM] = 2*vn0*v1*cos(w*t) + 2*vn1I*v0*cos(w*t) + vn2I*v1*cos(w*t)
* i_n[1,PM] = -2*vn1Q*v0*sin(w*t) - vn2Q*v1*sin(w*t)
* AM NOISE: i_n[1]/i[1]
* ------ Calculations -----------------------------------------------------------
* v0 = 2m
* v1 = 1m
* R1 = 1k
* i[0] = 4.5e-6
* i[1] = 2*v0*v1 = 4e-6
* vn (PSD) = 4*k*T*R1 = 1.656e-17 V^2/Hz


VIN 1 0 2m SIN(2m 1m 1MEG -0.25u 0) ac 1 ;
R1 1 2 1k ; add a resistor for noise
E1 3 0 2 0 1 ; buffer with unity gain to avoud loading of NL device

B1 3 4 I={(V(3)-V(4))*(V(3)-V(4))}
ViB1 4 0 0 ; zero-volts source to sample the current
H1 5 0 ViB1 1; voltage of node 4 is the current of B1

.hb 1MEG
.options hbint numfreq=2 tahb=0
.print hb v(5) i(B1)

.hbnoise V(5) 1 DEC 2 1 10
.print hbnoise amnoise pmnoise dan(R1) dpn(R1)
* .print hbnoise {sqrt(abs(amnoise))} {sqrt(abs(pmnoise))}

* .noise V(5) VIN DEC 2 1 10
* .print noise inoise onoise {sqrt(onoise)} DNO(*)
* .DC R 1k 1k 1
* .print dc I(VIN) V(1) V(2) V(5)
