* Testing oscillator AM/PM noise
* injection of noise to the tank is tricky. a noise source parallel to 
* the inductance short circuits the baseband noise. 
* So I add the noise directly to the NL element
*
* -------------------------------------------------------------------------------
* f(x) = x^3
* i = f( v + vn )
* v = v0 + v1*cos(w*t)
* vn = TBD
* -------------------------------------------------------------------------------
* HB analytical results
* i = v0^2 + 0.5*v1^2 + 2*v0*v1*cos(w*t) + 0.5*v1^2*cos(2*w*t)
* -------------------------------------------------------------------------------
* noise contributions analytical results:
* i_n = TBD
* -------------------------------------------------------------------------------
* NOISE AT FUNDAMENTAL
* i_n[1,AM] = TBD
* i_n[1,PM] = TBD
* AM NOISE: i_n[1]/i[1]
* ------ Calculations -----------------------------------------------------------
* vn (PSD) = 4*k*T*R1 = 1.656e-17 V^2/Hz

* ----------------------------
* This test is not going to work until HB can provide an estimate of oscillation frequency

.param pi = 3.1415926
.param L = {4.869e-7/2/pi}
.param C = {2e-12/2/pi}
.param R = 20k
.param G = {1/R}
.param V1 = 1
.param G3 = {-4*G/3/V1/V1}
*.param G3 = -1e-3

* tank
R0 1 0 R ; this resistor does not generate baseband noise
L0 1 0 L
C0 1 0 C

* NL element
R1 1 2 1k ; add a resistor for noise
E1 3 0 2 0 1 ; buffer with unity gain to avoid loading of NL device


B1 1 0 I={G3*V(3)*V(3)*V(3)}
* ViB1 4 0 0 ; zero-volts source to sample the current
* H1 5 0 ViB1 1; voltage of node 4 is the current of B1

.ic V(1)=0.8
.hb 1.0e9
.print hb V(1) I(B1)
.options hbint numfreq= 20 hbosc=1 refnode= "V(1)"
* .options linsol-hb prec_type=block_jacobi


* .hbnoise V(1) 1 DEC 1 1e3 1e6
* .print hbnoise amnoise pmnoise dan(R0) dpn(R0)
* .print hbnoise {sqrt(abs(amnoise))} {sqrt(abs(pmnoise))}

* .noise V(5) VIN DEC 2 1 10
* .print noise inoise onoise {sqrt(onoise)} DNO(*)
* .DC R 1k 1k 1
* .print dc I(VIN) V(1) V(2) V(5)
