* Testing AM/PM using ihp transistor
.lib "./ihp_sg13g2/cornerHBT.lib" hbt_typ
.lib "./ihp_sg13g2/cornerRES.lib" res_typ
.lib "./ihp_sg13g2/cornerCAP.lib" cap_typ
*
* -------------------------------------------------------------------------------
* f(x) = x^2
* i = f( v + vn )
* v = v1*cos(w*t)
* ------ Calculations -----------------------------------------------------------

.param VccVal = 2.5
.param VbbVal = 1.0
.param RcVal = 200
.param ReVal = 10

Vdc1 n_vcc 0 DC {VccVal}
Vdc2 n_vbb 0 DC {VbbVal}
Vrf n_vb n_vbb SIN(0 100m 10e9 0 0 90) ac 1 ;

X1 n_vc n_vb n_ve 0 npn13G2

*Rc n_vcc n_vc {RcVal} ; 
XRc n_vcc n_vc rsil w=0.5u l=0.5u
XCc n_vcc n_vc cap_cmim w=10u l=10u
Re n_ve 0 {ReVal} ; 

.DC VbbVal 0 2 0.5
.print dc v(n_vc) 

